US07446199B2
2-{3-[(2,3-Difluoro-phenyl)-acetyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-cyclopropanecarboxylic acid, (93 mg, 0.26 mmol), was combined with DIEA, (67 mg, 0.52 mmol), and HBTU, (113 mg, 0.3 mmol) in 1 mL DMF and stirred at rt for ˜15 min. Then N-methyl piperazine, (26 mg, 0.26 mmol), was added and the reaction stirred at rt for 4 hours. The DMF was evaporated under vacuum, water added and the suspension extracted with dichloromethane. The solvent was evaporated under vacuum and the residue purified by silica chromatography, (eluent: 5% methanol/DCM), affording trans-2-(2,3-Difluoro-phenyl)-1-{5-[2-(4-methyl-piperaz ine-1-carbonyl)-cyclopropyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-ethanone, (35 mg, Rf 0.5) and the cis isomer (16 mg, Rf 0.3).

reactant | 2-{3-[(2,3-Difluoro-phenyl)-acetyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-cyclopropanecarboxylic acid | 0.26 mmol, 93 mg | FC1=C(C=CC=C1F)CC(=O)C1=CNC2=NC=C(C=C21)C2C(C2)C(=O)O | C19H14F2N2O3
reactant | DIEA | 0.52 mmol, 67 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 0.3 mmol, 113 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methyl piperazine | 0.26 mmol, 26 mg | CN1CCNCC1 | C5H12N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | trans-2-(2,3-Difluoro-phenyl)-1-{5-[2-(4-methyl-piperaz ine-1-carbonyl)-cyclopropyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-ethanone | FC1=C(C=CC=C1F)CC(=O)C1=CNC2=NC=C(C=C21)[C@H]2[C@@H](C2)C(=O)N2CCN(CC2)C | C24H24F2N4O2
